US04276364
Preparation of 1-[4-(2-acetylhydrazino)phenyl]-3,3-dibenzylthiourea (NA-12)
Dibenzylamine (0.20 g, 0.001 mole) and 4-(2-acetylhydrazino)phenyl isothiocyanate (0.21 g, 0.001 mole) were reacted according to the procedure described for NA-11 in Example 3. Yield 0.35 g (88 percent), m.p. 207°-209° C.

reactant | Dibenzylamine | 0.001 mole, 0.20 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | 4-(2-acetylhydrazino)phenyl isothiocyanate | 0.001 mole, 0.21 g | C(C)(=O)NNC1=CC=C(C=C1)N=C=S | C9H9N3OS
reactant | 1-[4-(2-formylhydrazino)phenyl]-3,3-dibenzylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C22H22N4OS
product | 1-[4-(2-acetylhydrazino)phenyl]-3,3-dibenzylthiourea | C(C)(=O)NNC1=CC=C(C=C1)NC(=S)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H24N4OS
